US05753692
Synthesis of 5-(N-2,3-dihydroxypropyliminomethylidene)-2,2'-bithiophene
5.74 g of 5-formyl-2,2'-bithiophene was dissolved in 60 ml of benzene, followed by dropping in excess 2,3-dihydroxy-propenylamine and refluxed at 85° C. for 5 hours with molecular sieves. Then the benzene was evaporated under reduced pressure and 9.68 g of residual solid was obtained. A yellowish product (85%) could be further recrystallized from ethanol.

reactant | 5-formyl-2,2'-bithiophene | 5.74 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | 2,3-dihydroxy-propenylamine | OC(=CN)CO | C3H7NO2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 5-(N-2,3-dihydroxypropyliminomethylidene)-2,2'-bithiophene | 9.68 g | OC(CN=C=C1CC=C(S1)C=1SC=CC1)CO | C12H13NO2S2
